US05158953
A suspension of 2-nitro-4,5-dimethoxybenzonitrile (6.0 g, 28.8 mmol) in water (200 mL) was heated to 90° C. To this hot mixture was added sodium dithionite in a small portion until it was dissolved completely. The resulting solution was filtered and then cooled to room temperature to get crystal. The solid was collected by filtration to afford 4.99 g (97%) of 2-amino-4,5-dimethoxybenzonitrile. An analytical sample was recrystallized from acetonitrile. 1H NMR (100 MHz, DMSO-d6): δ3.64 (s, 3H, CH3), 3.73 (s, 3H, CH3), 4.32 (br s, 2H, NH2), 6.41 (s, 1H, Ar--H), 6.86 (s, 1H, Ar--H). 13C NMR (25 MHz, DMSO-d6): d 55.55, 56.87, 83.67, 92.08, 113.96, 140.33, 148.12, 154.33. MS: m/z 178 (M+), 163 (M+ -15), 147 (M+ -31), 135 (M+ -43), 120 (M+ -58).

reactant | 2-nitro-4,5-dimethoxybenzonitrile | 28.8 mmol, 6.0 g | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OC)OC | C9H8N2O4
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 200 mL | O | H2O
product | 2-amino-4,5-dimethoxybenzonitrile | 4.99 g, 97% | NC1=C(C#N)C=C(C(=C1)OC)OC | C9H10N2O2
